US08022096B2
(3) Preparation of tert-butyl 1-((S)-2-carbamoylpyrrolidin-1-yl)-5-((S)-2-(methoxymethyl)pyrrolidin-1-yl)-1,5-dioxopentan-2-ylcarbamate
To a mixture of 2-tert-butoxycarbonylamino-5-((S)-2-methoxymethyl-pyrrolidin-1-yl)-5-oxo-pentanoic acid (0.34 g, 1 mmol), L-prolinamide (0.11 g, 1 mmol), and HOBt hydrate (0.14 g, 1 mmol) in CH2Cl2 (5 mL) was added EDC (0.19 g, 1 mmol). The reaction mixture was stirred at ambient temperature for 12 h, diluted with CH2Cl2 (20 mL), washed sequentially with saturated aqueous sodium bicarbonate (10 mL), 0.5 N aqueous citric acid (10 mL) and brine (10 mL), dried over magnesium sulfate, filtered, and concentrated under reduced pressure to yield a crude a viscous oil. The crude oil was purified by flash chromatography (silica gel, 2 to 8% CH3OH/CH2Cl2 gradient) to give the title compound (0.36 g, 81%) as a foamy solid.

reactant | 2-tert-butoxycarbonylamino-5-((S)-2-methoxymethyl-pyrrolidin-1-yl)-5-oxo-pentanoic acid | 1 mmol, 0.34 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CCC(=O)N1[C@@H](CCC1)COC | C16H28N2O6
reactant | L-prolinamide | 1 mmol, 0.11 g | N1[C@H](C(=O)N)CCC1 | C5H10N2O
reactant | HOBt hydrate | 1 mmol, 0.14 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 1 mmol, 0.19 g
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 1-((S)-2-carbamoylpyrrolidin-1-yl)-5-((S)-2-(methoxymethyl)pyrrolidin-1-yl)-1,5-dioxopentan-2-ylcarbamate | 0.36 g, 81% | C(N)(=O)[C@H]1N(CCC1)C(C(CCC(=O)N1[C@@H](CCC1)COC)NC(OC(C)(C)C)=O)=O | C21H36N4O6
